US09399640B2
Step 1. 3-Bromo-6-fluoro-2-methoxybenzaldehyde
1.6 M Solution of n-butyllithium in hexanes (3.35 mL, 5.36 mmol) was added dropwise to a solution of N,N-diisopropylamine (0.960 mL, 6.85 mmol) in tetrahydrofuran (10 mL) at −78° C. and the resultant reaction mixture was stirred at −78° C. for 10 min. A solution of 1-bromo-4-fluoro-2-methoxybenzene (1.0 g, 4.9 mmol) in tetrahydrofuran (2 mL) was added to the reaction mixture dropwise at −78° C. and the reaction mixture was stirred at −78° C. for 1 h. N,N-dimethylformamide (0.412 mL, 5.32 mmol) was added to the reaction mixture dropwise at −78° C. and the reaction mixture was stirred at −78° C. for 1 h. Reaction mixture was quenched with saturated ammonium chloride, warmed to 20° C., and diluted with ether and 1M aqueous solution of HCl. Layers were separated and the aqueous layer was and re-extracted with ether. The combined organic layers were washed with brine, dried with magnesium sulfate, filtered, and concentrated in vacuo to give a crude residue. Purification by flash column chromatography (100% hexanes to 30% EtOAc/hexanes) gave the desired product (727 mg, 64%) as a yellow solid. LCMS calculated for C8H7BrFO2 (M+H)+: m/z=233.0, 235.0. found: 233.0, 234.8.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 6.85 mmol, 0.960 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-bromo-4-fluoro-2-methoxybenzene | 4.9 mmol, 1.0 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | N,N-dimethylformamide | 5.32 mmol, 0.412 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-Bromo-6-fluoro-2-methoxybenzaldehyde | 727 mg, 64% | BrC=1C(=C(C=O)C(=CC1)F)OC | C8H6BrFO2
